US06576653B2
2-Methylsulfanyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester
5-Methylsulfanyl-thiophene-2-carbaldehyde was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester added as ethanol solution (1 M of ester) to −20° C. ethoxide solution; allow to warm to 10° C. over 4 h; reaction poured into cold saturated aqueous NH4Cl; after ether extraction, acrylate organic phase washed with water until aqueous phase was neutral; crude acrylate solution heated at reflux for 2 h, allowed to cool to room temperature, stirred overnight).

reactant | 5-Methylsulfanyl-thiophene-2-carbaldehyde | CSC1=CC=C(S1)C=O | C6H6OS2
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | ethoxide | [O-]CC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | acrylate | C(C=C)(=O)[O-]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 1 M | C(C)O | C2H6O
product | 2-Methylsulfanyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N1)C=C(S2)SC | C10H11NO2S2
